US07968558B2
2-(1,3-benzodioxol-5-yl)-6-nitroquinoline
2-chloro-6-nitroquinoline (5.2 g, 25 mmol) (prepared according to Byoung S. L. et al. Heterocycles. 1998, 48.12, 65), 3,4-(methylenedioxy)phenylboronic acid (5.0 g, 30 mmol), palladium dichloride bis(triphenilphosphine) (350 mg, 0.5 mmol) and barium hydroxide octahydrate (18.9 g, 60 mmol) in 150 ml of anhydrous THF are stirred at 65° C. for 20 hours. The mixture of reaction is evaporated under vacuum and the residue is chromatographed on silica gel (CH2Cl2) to afford 2.0 g (27%) of the titled product.

reactant | 2-chloro-6-nitroquinoline | 25 mmol, 5.2 g | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | 3,4-(methylenedioxy)phenylboronic acid | 30 mmol, 5.0 g | B(C1=CC2=C(C=C1)OCO2)(O)O | C7H7BO4
reactant | barium hydroxide octahydrate | 60 mmol, 18.9 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | palladium dichloride | [Pd](Cl)Cl
product | 2-(1,3-benzodioxol-5-yl)-6-nitroquinoline | 2.0 g, 27% | O1COC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1C=C2)[N+](=O)[O-] | C16H10N2O4
